US07402595B2
6-bromo-2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid
A mixture of 6-bromo-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid (2.3 g), 5-aminomethyl-2,3-dihydrobenzo[b]furan (2.0 g), triethylamine (2.3 ml) and methanol (23 ml) was stirred at 50° C. for 24 hrs. The reaction mixture was concentrated, 1N-hydrochloric acid was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. 4N-Hydrochloric acid-ethyl acetate solution (8 ml) was added to the residue at room temperature, and the mixture was stirred for 12 hrs. The reaction mixture was concentrated under reduced pressure and the obtained crystals were washed with diethyl ether to give the title compound (1.98 g).

reactant | 6-bromo-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid | 2.3 g | BrC=1C=C2C(=C(OC(C2=CC1)=O)C(=O)O)C1=CC=CC=C1 | C16H9BrO4
reactant | 5-aminomethyl-2,3-dihydrobenzo[b]furan | 2.0 g | NCC1=CC2=C(OCC2)C=C1 | C9H11NO
reactant | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 23 ml | CO | CH4O
product | 6-bromo-2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 1.98 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC=1C=CC2=C(CCO2)C1)C(=O)O)C1=CC=CC=C1 | C25H18BrNO4
